US04927958
A solution of 13.9 g (0.1 mmol) of bromoacetic acid in 40 ml of toluene was treated with 11.8 ml (0.1 mol) of diethylene glycol monomethyl ether and 0.8 g of p-toluenesulphonic acid monohydrate. The mixture was heated under reflux on a water separator until water no longer separated. The reaction mixture was washed in succession with water, saturated sodium bicarbonate solution and water. The organic phase was dried over sodium sulphate and concentrated. Flash chromatography of the residue on 500 g of silica gel (elution agent methylene chloride/ether 4:1) yielded 2-(2-methoxyethoxy)ethyl bromoacetate as a pale yellow oil.

reactant | bromoacetic acid | 0.1 mmol, 13.9 g | BrCC(=O)O | C2H3BrO2
reactant | diethylene glycol monomethyl ether | 0.1 mol, 11.8 ml | COCCOCCO | C5H12O3
reactant | p-toluenesulphonic acid monohydrate | 0.8 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | water | O | H2O
solvent | toluene | 40 ml | C1(=CC=CC=C1)C | C7H8
product | 2-(2-methoxyethoxy)ethyl bromoacetate | BrCC(=O)OCCOCCOC | C7H13BrO4
